US08912180B2
To a mixture of 4-[2-(difluoromethyl)-1H-benzimidazol-1-yl]-6-morpholin-4-yl-N-(piperidin-4-ylmethyl)pyrimidin-2-amine (100 mg) and ethanol (2 mL) were added 2-(fluoromethyl)oxirane (19 μL) and N,N-diisopropyl ethylamine (79 μL), and the mixture was stirred in a microwave reactor at 120° C. for 1 hour. To the reaction mixture was added water, followed by extraction with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and then the residue was purified by amino silica gel column chromatography (ethyl acetate:hexane) to obtain 1-{4-[({4-[2-(difluoromethyl)-1H-benzimidazol-1-yl]-6-(morpholin-4-yl)pyrimidin-2-yl}amino)methyl]piperidin-1-yl}-3-fluoropropan-2-ol (81 mg) as a white powder.

reactant | 4-[2-(difluoromethyl)-1H-benzimidazol-1-yl]-6-morpholin-4-yl-N-(piperidin-4-ylmethyl)pyrimidin-2-amine | 100 mg | FC(C1=NC2=C(N1C1=NC(=NC(=C1)N1CCOCC1)NCC1CCNCC1)C=CC=C2)F | C22H27F2N7O
reactant | ethanol | 2 mL | C(C)O | C2H6O
reactant | 2-(fluoromethyl)oxirane | 19 μL | FCC1OC1 | C3H5FO
reactant | N,N-diisopropyl ethylamine | 79 μL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | water | O | H2O
product | 1-{4-[({4-[2-(difluoromethyl)-1H-benzimidazol-1-yl]-6-(morpholin-4-yl)pyrimidin-2-yl}amino)methyl]piperidin-1-yl}-3-fluoropropan-2-ol | 81 mg | FC(C1=NC2=C(N1C1=NC(=NC(=C1)N1CCOCC1)NCC1CCN(CC1)CC(CF)O)C=CC=C2)F | C25H32F3N7O2
